US07470705B2
(+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-dimethylamino-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Add N,N-dimethylamine 40% in water (0.5 mL) to a solution of (+/-)-cis-4-[acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-bromo-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (60 mg, 0.098 mmol) in dimethylsulfoxide (0.2 mL) and heat the mixture at 100° C. in a sealed tube for 15 h. Cool the reaction mixture to room temperature, add water and extract with ethyl acetate. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Chromatograph the residue overa silica gel cartridge, eluting with hexanes/ethyl acetate to provide the title compound (32 mg, 57%). MS (ES+): 575 (M+H).

reactant | N,N-dimethylamine | CNC | C2H7N
reactant | (+/-)-cis-4-[acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-bromo-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.098 mmol, 60 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)Br)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)CC | C25H26BrF6N3O3
solvent | water | 0.5 mL | O | H2O
solvent | dimethylsulfoxide | 0.2 mL | CS(=O)C | C2H6OS
product | (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-dimethylamino-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 32 mg, 57% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)N(C)C)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)CC | C27H32F6N4O3
